US05534518
This compound was prepared in a manner analogous to that of Step E of Example 1, using 2.7 grams (0.009 mole) of 2-amino-6-methyl-5-[(4-trifluoromethylphenyl)ethynyl]benzonitrile and 1.2 grams (0.011 mole) of chloroformamidine hydrochloride in 10 mL of 2-methoxyethyl ether. Upon completion of the reaction, the reaction mixture was diluted with 200 mL of diethyl ether. The resultant solid was collected by filtration, and was dissolved in a hot mixture of 300 mL of water and 100 mL of n-propanol. The solution was filtered hot through a sintered glass funnel to remove some insoluble material. The filtrate was then made basic with 100 mL of concentrated ammonium hydroxide. The resultant solid was collected by filtration, and dried at 60° C. under vacuum. The solid was then dissolved in a solution of 10% methanol in methylene chloride, and the solution was subjected to column chromatography on silica gel. Elution was accomplished using 10% methanol in methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.6 grams of 2,4-diamino-5-methyl-6-[1-chloro-2-(4-trifluoromethylphenyl)ethenyl]quinazoline, mp >300° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2-amino-6-methyl-5-[(4-trifluoromethylphenyl)ethynyl]benzonitrile | 0.009 mole, 2.7 grams | NC1=C(C#N)C(=C(C=C1)C#CC1=CC=C(C=C1)C(F)(F)F)C | C17H11F3N2
reactant | chloroformamidine hydrochloride | 0.011 mole, 1.2 grams | Cl.ClC(=N)N
solvent | 2-methoxyethyl ether | 10 mL | COCCOCCOC | C6H14O3
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2,4-diamino-5-methyl-6-[1-chloro-2-(4-trifluoromethylphenyl)ethenyl]quinazoline | 1.6 grams | NC1=NC2=CC=C(C(=C2C(=N1)N)C)C(=CC1=CC=C(C=C1)C(F)(F)F)Cl | C18H14ClF3N4
